US09163020B2
N-(2-hydroxyethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide
See FIG. 20(a). 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid (75 mg, 0.24 mmol) was taken in dichloromethane (10 mL) to get a suspension. Added triethyl amine (0.0669 mL, 0.48 mmol) followed by the addition of 1-Propanephosphonic acid cyclic anhydride (0.286 mL, 0.48 mmol). The reaction mass was stirred at RT for 5 minutes. Ethanol amine (0.029 mL, 0.48 mmol) was added and stirred at RT for overnight. After the completion of the reaction, diluted the reaction mass with DCM, washed with water and brine solution. The DCM layer was dried over sodium sulphate, evaporated to get the crude compound which was purified by column chromatography. Yield-52.7%. ES+MS m/z: 356.4 (M+1). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.23 (s, 3 H ) 2.39 (s, 3 H) 3.39-3.65 (m, 4 H ) 3.93 (s, 3 H ) 4.84 (t, J=5.09 Hz, 1 H ) 5.63 (s, 2 H ) 7.74 (s, 1 H ) 8.12 (s, 1 H) 8.33 (s, 1 H ) 8.41 (s, 1 H ) 8.80 (t, J=5.65 Hz, 1 H ).

reactant | 1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxylic acid | 0.24 mmol, 75 mg | COC1=C(C(=NC=N1)CN1C=C(C2=NC=C(C=C21)C)C(=O)O)C | C16H16N4O3
reactant | triethyl amine | 0.48 mmol, 0.0669 mL | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 0.48 mmol, 0.286 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | Ethanol amine | 0.48 mmol, 0.029 mL | C(O)CN | C2H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxyethyl)-1-((6-methoxy-5-methylpyrimidin-4-yl)methyl)-6-methyl-1H-pyrrolo[3,2-b]pyridine-3-carboxamide | Yield-52.7% | OCCNC(=O)C1=CN(C=2C1=NC=C(C2)C)CC2=NC=NC(=C2C)OC | C18H21N5O3
